Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Neutropenic fever, hematuria
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
___ h/o MS, diet-controlled HTN, MM as below, p/w CC fever.  
Last seen in ___ clinic ___, doing well at that time 
and started on ___ cycle revlamid, ANC 880.  Reports generalized 
fatigue for the past ___ days, otherwise asymptomatic, this AM 
felt febrile, temp 102.9, associated with chills/rigors.  Denies 
prodromal symptoms, cough, n/v/d/c, dysuria, or MSK pain in 
preceding days, though does report a single drop of blood at the 
tip of his penis after urinating this morning, which he has 
never had before.  Does not have indwelling line.  Took tylenol 
at home prior to ED presentation.  Denies sick contacts, ROS 
otherwise negative.

Initial ED vitals 98.4 76 191/85 16 98%.  Blood cultures, urine 
cultures, and respiratory viral swab collected.  Labs remarkable 
for neutropenia (calc. ANC 310), mild anion gap 15, lactate 2.6, 
and floridly infectious UA with hematuria.  Got first dose of 
cefepime and tamiflu.  Had diarrheal episode in ED.  Spiked to 
104.8 at 1230, received additional tylenol and had deverfesced 
to 100.8 prior to floor transfer.  CXR read pending but 
unremarkable on initial inspection.  Transferred to the floor 
for further care
 
Past Medical History:
- multiple sclerosis
- HTN (previously on HCTZ, stopped once lost weight)
- Scoliosis
- "Congenital heart murmur"
- Bilateral cataracts 
- Long smoking history with emphysematous changes on radiograph
- s/p T4 corpectomy T2-T7 fusion ___

PAST ONCOLOGIC HISTORY:  
- MM diagnosed after presentation with spinal compression at T4, 
s/p debulking and hardware as above.
Chemo History:
Cycle 1 Velcade ___
XRT to his T-spine, ___ompleted on ___ 
Cycle 2 Velcade/Dex (given in ___ at ___
Cycle 3 Velcade/Dex ___
Cycle 4 Velcade/Dex/PO Cytoxan ___ + ___
Cycle 5 Velcade/Dex/PO Cytoxan:  ___ (missed ___
Cycle 6 Velcade/Dex/PO Cytoxan started ___
Cycle 7 Velcade/Dex/PO Cytoxan started ___
Cycle 1 RVD (lenalidomide 25 mg daily D1-21, Velcade
1.5 mg/m2 sc + Dexamethasone 40 mg PO D1,8,15,22) ___ 
Cycle 2 RVD (lenalidomide 25 mg daily D1-21, Velcade
1.5 mg/m2 sc + Dexamethasone 40mg PO D1, 20mg D8,15,22) ___ 

Cycle 3 RVD (lenalidomide 25 mg daily D1-21, Velcade
1.5 mg/m2 sc + Dexamethasone 20 mg PO D1,8,15,22) ___
Cycle 4 RVD (lenalidomide 25 mg daily D1-21, Velcade
1.5 mg/m2 sc + Dexamethasone 20 mg PO D1,8,15,22) ___
Cycle 4 RVD (lenalidomide 25 mg daily D1-21, Velcade
1.5 mg/m2 sc + Dexamethasone 20 mg PO D1,8,15,22) ___
Cycle 5 RVD (lenalidomide 25 mg daily D1-21, Velcade
1.5 mg/m2 sc + Dexamethasone 20 mg PO D1,8,15,22) ___

PAST MEDICAL/SURGICAL HISTORY:  
- multiple sclerosis
- HTN (previously on HCTZ, stopped once lost weight)
- Scoliosis
- "Congenital heart murmur"
- Bilateral cataracts 
- Long smoking history with emphysematous changes on radiograph
- s/p T4 corpectomy T2-T7 fusion ___
 
Social History:
___
Family History:
no h/o MS

 
Physical Exam:
Admission Exam:
VS: 98.2 74 130/90 18 99% RA
GEN: Elderly black male resting comfortably in bed, AAOx3, NAD 
HEENT: NCAT, MMM
NECK: No JVD
CV: RR, S1+S2, nmrg
RESP: CTABL, no w/r/r
ABD: SNTND, normoactive BS
GU: No foley
EXT: WWP, no c/c/e
SKIN: Mildly erythematous rash in bilateral groin folds.  Pink 
rash in superior gluteal cleft
NEURO: CN II-xII intact, 4+/5 strength in RLE muscle groups 
except ___ in ___, LLE ___ throughout, BLUE strength grossly 
intact.  Sensation to light touch grossly intact.

Discharge Exam:
VS: 99.5/99.5 73 122/68 18 100% RA
GEN: Elderly black male resting comfortably in bed, AAOx3, NAD 
HEENT: NCAT, MMM
NECK: No JVD
CV: RR, S1+S2, nmrg
RESP: CTABL, no w/r/r
ABD: SNTND, normoactive BS
GU: No foley
EXT: WWP, no c/c/e
SKIN: Groin fold rash resolving.
NEURO: CN II-xII intact, stable 4+/5 strength in RLE muscle 
groups except ___ in ___, LLE ___ throughout, BLUE strength 
grossly intact.  Sensation to light touch grossly intact.
 
Pertinent Results:
Admission Labs:
___ 12:30PM BLOOD WBC-0.5*# RBC-4.88 Hgb-13.4* Hct-42.9 
MCV-88 MCH-27.4 MCHC-31.1 RDW-16.1* Plt ___
___ 12:30PM BLOOD Neuts-62 Bands-0 ___ Monos-5 Eos-1 
Baso-0 ___ Myelos-0
___ 12:30PM BLOOD Hypochr-NORMAL Anisocy-NORMAL Poiklo-1+ 
Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL Ovalocy-1+ 
Schisto-OCCASIONAL
___ 12:30PM BLOOD Plt Smr-NORMAL Plt ___
___ 12:30PM BLOOD ESR-11
___ 12:30PM BLOOD Glucose-107* UreaN-14 Creat-1.2 Na-140 
K-3.7 Cl-104 HCO3-21* AnGap-19
___ 12:30PM BLOOD ALT-15 AST-25 AlkPhos-58 TotBili-0.5
___ 12:30PM BLOOD Albumin-3.9
___ 02:50AM BLOOD Calcium-7.7* Phos-3.4 Mg-1.7
___ 12:31PM BLOOD Lactate-2.6*

Micro:
___ BCx x2 neg
___ UCx neg
___ Resp Ag neg, Cx neg
___ BCx pend
___ UCx neg
___ BCx neg
___ Urine NG/GC neg
___ Urine acid-fast Cx pend
___ UCx neg
___ BK virus pend
___ UCx neg
___ BCx pend
___ BCx x3 pend
.
.
Imaging:
CXR: The cardiac, mediastinal and hilar contours are unchanged, 
with the heart size within normal limits.  The aorta is mildly 
tortuous.  The pulmonary vasculature is normal.  Lungs are clear 
without focal consolidation.  No pleural effusion or 
pneumothorax is seen.  Bone island is again demonstrated within 
the ___ posterior right rib.  Partially imaged is thoracic 
spinal fusion hardware with corpectomy in the upper to mid 
thoracic spine.  S-shaped scoliosis of the thoracic spine is re- 
demonstrated. 
IMPRESSION: No acute cardiopulmonary process. 
.
BLLENIs: There is normal respiratory variation in the common 
femoral veins bilaterally. On the right, the distal common 
femoral and proximal superficial femoral veins are not 
compressible with transducer pressure.  Nonocclusive thrombus is 
seen at these levels on color and spectral Doppler.  The right 
mid and distal superficial femoral, greater saphenous, 
popliteal, peroneal, and posterior tibial veins demonstrate 
normal compressibility and flow.     
On the left, the proximal through distal superficial femoral 
vein is not 
compressible with transducer pressure and also demonstrates 
nonocclusive 
thrombus on color and spectral Doppler.  The common femoral and 
popliteal 
veins demonstrate normal compressibility and flow.  There is 
normal color flow within the posterior tibial and peroneal 
veins.   
IMPRESSION: 
Deep vein thromboses in the distal common femoral and proximal 
superficial femoral veins on the right, and in the proximal 
through distal superficial femoral vein on the left. No 
comparison imaging is available, but per report of prior 
ultrasound on ___, the patient was found to have 
deep vein thromboses in the right common femoral and deep 
femoral veins and left mid to distal femoral vein.  
.
CT Sinus: There is very mild mucosal thickening in the ethmoidal 
air cells, bilateral maxillary sinuses and sphenoid sinus.  The 
frontal sinuses are clear.  There is no air-fluid level in any 
of the sinuses.  There is no evidence of a retention cyst or 
other space-occupying sinus lesion, such as a fungus ball.  The 
bilateral ostiomeatal units are mildly narrowed by this mucosal 
thickening, though remain patent. 
Tge mastoid air cells and middle ear cavities are clear.  The 
imaged portions of the brain are normal without evidence of 
mass, hemorrhage or 
ventriculomegaly.  The orbits are intact.  There is no 
retrobulbar fat 
stranding or abscess. No fracture is identified.  There are no 
periapical lucencies surrounding the imaged upper teeth.  No 
focal lucent lesions are identified in the imaged portion of the 
skull. 
IMPRESSION:  Mild mucosal thickening in the paranasal sinuses.  
No evidence of active sinusitis or a fungal infection. 
.
CT Chest: In the right lobe of the thyroid gland, there is an 11 
x 8 mm 
hypodense nodule.  This is unchanged from the prior exam.  No 
new nodules are identified.  There is no axillary, mediastinal 
or hilar lymphadenopathy. There is a very small pericardial 
effusion, increased since the prior exam, but still physiologic 
in amount. The heart is normal in size.  Moderate 
atherosclerotic calcifications are noted in the coronary 
arteries.  The thoracic aorta is normal in course and caliber. 
There is no evidence of acute aortic pathology. Mild 
atherosclerotic calcifications are noted along the arch.  The 
main pulmonary artery trunk is normal in diameter.  This CT is 
not timed to evaluate for pulmonary embolism, although there are 
no large filling defects in the main pulmonary arteries. 
The airways are patent to the subsegmental levels.  There is 
minimal bibasilar atelectasis.  The lungs are otherwise clear.  
There is no evidence of pneumonia or pulmonary edema.  No 
discrete pulmonary nodules are identified. There is no pleural 
effusion or pneumothorax. 
Since the Prior CT of the torso, the patient has undergone a 
posterior fusion of T2 through T7.  Post-surgical changes are 
noted in the previously identified lesion in T4.  Metallic 
artifact severely limits evaluation of the surrounding tissues.  
Thecal sac is not well evaluated.  There is no large surrounding 
post-operative fluid collection.  Other lucent lesions in the 
ribs and vertebral bodies are unchanged.  This is in keeping 
with history of multiple myeloma.  No new lesions are 
identified. 
IMPRESSION:
1.  No evidence of infection in the chest. 
2. Post-surgical changes in the upper thoracic spine.  
Evaluation is limited by artifact, though no large 
post-operative fluid collection is identified.   
3.  Unchanged lucent lesions throughout the bones, consistent 
with multiple myeloma. 
.
CTAP: LUNG BASES:  Please see the CT of the chest for thoracic 
details. 
ABDOMEN:  The liver is normal in shape and contour.  There are 
no focal 
hepatic lesions.  The portal veins are patent.  There is no 
intra- or extra-hepatic biliary duct dilation.  The gallbladder 
is distended, though less so than on the prior exam.  There are 
no stones or CT evidence of cholecystitis. Spleen is normal in 
size.  The pancreas is normal without focal inflammatory 
changes, duct dilation or masses.  The bilateral adrenal glands 
are normal. Kidneys are normal without renal lesions, 
hydronephrosis or pyelonephritis. The kidneys enhance and 
excrete contrast symmetrically. There is no significant 
perinephric stranding. There is a small hiatal hernia.  The 
stomach and small bowel are normal in course and caliber.  There 
is no evidence of obstruction.  There is no free air.  Noted is 
a pill in a loop of small bowel in the left upper quadrant. The 
abdominal vasculature is normal in course and caliber.  Mild 
atherosclerotic calcifications are noted in the common iliac 
arteries.  There is no periportal, retroperitoneal or mesenteric 
lymphadenopathy. 
PELVIS:  The large bowel is normal without focal inflammatory 
changes.  The appendix is air filled and normal.  The bladder 
wall is mildly thickened without focal lesions.  The prostate is 
severely enlarged, measuring 4.7 x 4 x 6 cm.  Medial lobe is 
indenting on the bladder. 
There is trace free fluid in the pelvis, which is non-specific.  
This was not present on the prior exam.  This is likely 
inflammatory.  The largest pocket is along the left pelvic side 
wall (3, 102), and measures about 24 x 22 mm. There is no pelvic 
or inguinal lymphadenopathy. 
The left iliacus muscle is enlarged and shows adjacent fat 
stranding. There is a 1.1cm low density lesion within it ___ 
98, se 3). 
OSSEOUS STRUCTURES:  Again, there are multiple lucent lesions 
throughout the lumbar vertebral bodies.  The largest is in L2 
measuring 1.4 mm (8, 32), grossly unchanged from the prior exam. 
 There is no evidence of any fracture. Although CT is not 
designed for looking at the intrathecal sac.  There is no 
evidence of central cord compression in the lumbar spine.   
IMPRESSION: 
1. Findings concerning for 1.1cm abscess in the left iliacus 
muscle with 
enlargement of the muscle and adjacent fat stranding. This could 
be confirmed with MRI if warranted. 
2. Mildly thickened bladder wall likely due to chronic bladder 
outlet 
obstruction from enlarged prostate gland. 
3.  Non-specific trace free fluid in the pelvis, new from the 
prior exam. 
4. No evidence of pyelonephritis. 
5. Stable bone lesions 
.
.
Discharge Labs:
___ 12:15AM BLOOD WBC-4.7 RBC-3.66* Hgb-9.6* Hct-31.6* 
MCV-86 MCH-26.2* MCHC-30.4* RDW-16.0* Plt ___
___ 12:15AM BLOOD Neuts-73.4* Lymphs-17.7* Monos-7.1 
Eos-1.5 Baso-0.3
___ 06:20AM BLOOD Hypochr-NORMAL Anisocy-2+ Poiklo-1+ 
Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL Schisto-OCCASIONAL 
Ellipto-1+
___ 12:15AM BLOOD Plt ___
___ 12:15AM BLOOD Glucose-132* UreaN-12 Creat-0.8 Na-135 
K-4.1 Cl-99 HCO3-28 AnGap-12
___ 12:15AM BLOOD ALT-35 AST-47* LD(LDH)-258* CK(CPK)-1849* 
AlkPhos-49 TotBili-0.6
___ 12:15AM BLOOD Calcium-8.1* Phos-3.1 Mg-2.___ w/ MM on RVD p/w neutropenic fever found to have UTI and 
psoas abscess.
.
Acute Issues
============
# UTI, iliopsoas abscess in setting neutropenia: Started on 
vanc/cefepime on admission, continued to spike and eventually 
broadened to vanc/meropenem before remained afebrile x24hrs.  
Received neupogen x1 on admission with excellent WBC response.  
Urine cultures never grew, however infectious findings on UA 
resolved.  PICC placed and discharged with dapto/erta for once 
daily dosing due to insurance issues, planned for total ___ut will f/u with transplant ID for possible re-imaging 
to determine resolution of abscess.  
.
# Hematuria: Gross hematuria prior to admission, did not recur 
during stay.  Serial UAs showed gradual resolution of RBCs in 
urine concommitant with resolution of infectious findings.  
Urologist informed of Sx, will see patient for regular f/u.
.
.
Chronic Issues
==============
# BPH, neurogenic bladder: Pt complained of urinary urgency 
during admission, started on low-dose oxybutynin with 
improvement of symptoms.  Was discharged on oxtbutynin in 
addition to pre-admission flomax as below.
.
# MM: Stable.  Was due for cycle 6 revlamid on day of admission 
however held in setting of infection.  Received neupogen x1 on 
admission as above.  Will f/u weekly in ___ clinic with 
plan to restart chemo after resolution of abscess. 
.
# DVT: Stable.  Repeat BLLE dopplers showed persistence of 
thromboses after 3months lovenox, will continue for additional 3 
months and re-image at that time.
.
# HTN: Diet controlled outpt, BPs WNL during admission.
.
# MS: Remote diagnosis, not recently seen here in neurology and 
not on meds.  Neuro exam with baseline RLE weakness throughout 
admission, seen by ___ and rehab recommended however patient 
refused.
.
.
Transitional Issues
===================
- Please check weekly CKs while on daptomycin and consult 
transplant ID re: medication change if evidencing rising levels
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lactulose 15 mL PO BID:PRN constipation 
2. Gabapentin 300 mg PO TID 
3. Docusate Sodium 100 mg PO BID:PRN constipation 
4. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
5. Senna 8.6 mg PO BID:PRN constipation 
6. Enoxaparin Sodium 80 mg SC Q12H 
7. Acyclovir 400 mg PO Q8H 
8. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN pain 
9. HYDROcodone-acetaminophen ___ mg oral Q6H:PRN pain 
10. Tamsulosin 0.4 mg PO HS 

 
Discharge Medications:
1. Acyclovir 400 mg PO Q8H 
2. Docusate Sodium 100 mg PO BID:PRN constipation 
3. Enoxaparin Sodium 80 mg SC Q12H 
4. Gabapentin 300 mg PO TID 
5. Senna 8.6 mg PO BID:PRN constipation 
6. Tamsulosin 0.4 mg PO HS 
7. Oxybutynin 5 mg PO BID 
8. Lactulose 15 mL PO BID:PRN constipation 
9. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
10. Daptomycin 450 mg IV Q24H 
RX *daptomycin [CUBICIN] 500 mg 450 mg IV q24h Disp #*28 Vial 
Refills:*0
11. ertapenem 1 gram intravenous q24 
RX *ertapenem [Invanz] 1 gram 1 gram IV q24h Disp #*28 Vial 
Refills:*0
12. OxycoDONE (Immediate Release)  ___ mg PO Q6H:PRN pain 
Please try to wean yourself from this medication as your abscess 
resolves and pain improves. 
13. Heparin Flush (10 units/ml) 2 mL IV DAILY and PRN, line 
flush 
14. Sodium Chloride 0.9%  Flush 10 mL IV DAILY and PRN, line 
flush 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnoses:
- Urinary tract infection
- Psoas abscess

Secondary Diagnoses:
- Multiple myeloma
- Benign prostatic hypertrophy
- Neurogenic bladder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

It was a pleasure taking care of you at ___.  You were 
admitted for a neutropenic fever, due to a urinary tract 
infection and a small abscess in your psoas muscle.  You were 
treated with antibiotics, which you will continue after 
discharge.  We also made some adjustments in your urinary 
medications.  

As we discussed, you should be able to resume your normal 
activity within discharge, though it is best to avoid alcohol 
while on these antibiotics.

Please attend the follow-up appointments listed below.  Thank 
you for allowing us to be part of your care.
 
Followup Instructions:
___